US06784183B2
N-(3-Chloro-4-methylphenyl)-N′-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl]urea hydrochloride
A mixture of 13.6 mmol (3 g) of 4-methoxy-3-(4-methyl-1-piperazinyl)phenylamine and 13.6 mmol (2.26 g) of 3-chloro-4-methylphenyl isocyanate in 100 ml of toluene is heated at reflux for 2 hours. After cooling, the precipitate obtained is filtered off, and rinsed twice with diethyl ether. The solid obtained is purified by chromatography on silica gel, using as eluant a 96/4/0.4 dichloromethane/methanol/ammonium hydroxide mixture, to yield the expected product. The corresponding hydrochloride is obtained by the action of an ethanolic HCl solution.

reactant | 4-methoxy-3-(4-methyl-1-piperazinyl)phenylamine | 13.6 mmol, 3 g | COC1=C(C=C(C=C1)N)N1CCN(CC1)C | C12H19N3O
reactant | 3-chloro-4-methylphenyl isocyanate | 13.6 mmol, 2.26 g | ClC=1C=C(C=CC1C)N=C=O | C8H6ClNO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Chloro-4-methylphenyl)-N′-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl]urea hydrochloride | Cl.ClC=1C=C(C=CC1C)NC(=O)NC1=CC(=C(C=C1)OC)N1CCN(CC1)C | InChI=1S/C20H25ClN4O2.ClH/c1-14-4-5-15(12-17(14)21)22-20(26)23-16-6-7-19(27-3)18(13-16)25-10-8-24(2)9-11-25;/h4-7,12-13H,8-11H2,1-3H3,(H2,22,23,26);1H
